US09315462B2
Step 1: Synthesis of methyl 4-(6-hydroxyquinolin-2-yl)benzoate
Scheme 1, step 1, starting from 4-(methoxycarbonyl)phenylboronic acid and 2-chloroquinolin-6-ol, using Na2CO3 instead of TEA.

reactant | 4-(methoxycarbonyl)phenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | methyl 4-(6-hydroxyquinolin-2-yl)benzoate | OC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C(=O)OC)C=C1 | C17H13NO3
